US09085555B2
3-Aminomethyl-5-chloro-N-(2-dimethylamino-ethyl)-4-fluoro-benzamide
was prepared according to Scheme C3 (step B) from [3-chloro-5-(2-dimethylamino-ethylcarbamoyl)-2-fluoro-benzyl]-carbamic acid tert-butyl ester (120 mg, 0.3 mmol) and TFA (1 mL) in CH2Cl2. MS (LC-MS): 274.0 [M]+; tR (HPLC conditions c): 2.17 min.

reactant | [3-chloro-5-(2-dimethylamino-ethylcarbamoyl)-2-fluoro-benzyl]-carbamic acid tert-butyl ester | 0.3 mmol, 120 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C(NCCN(C)C)=O)Cl)F)=O | C17H25ClFN3O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Aminomethyl-5-chloro-N-(2-dimethylamino-ethyl)-4-fluoro-benzamide | NCC=1C=C(C(=O)NCCN(C)C)C=C(C1F)Cl | C12H17ClFN3O
